US05238958
A mixture of 4-(bromomethyl-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzenemethanol (6.35 g, 19.2 mmol) from Preparation 15, tert-butyldimethylsilyl chloride (4.3 g, 28.8 mmol), triethylamine (5.3 mL, 38.3 mmol), and dimethylaminopyridine (90 mg) in dichloromethane (50 mL) is stirred at room temperature for 24 hours. Dichloromethane (1 L) is added and the organic phase washed with H2O 100 mL). The organic phase is dried (MgSO4) and concentrated. The residue is purified by silica gel chromatography (2.5% MeOH/CH2Cl2 followed by 5% MeOH/CHCl2). A yellow-orange solid of 2-[[(1,1-dimethylethyl)dimethylsilyl]-oxy]-4-[[[(1,1-dimethylethyl) dimethylsilyl]oxy]-methyl]-N,N,N-triethylbenzenemethanaminium bromide is obtained (7.68 g, 73%).

reactant | bromomethyl-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzenemethanol | 19.2 mmol, 6.35 g | BrCC1=C(C=CC=C1O[Si](C)(C)C(C)(C)C)CO | C14H23BrO2Si
reactant | tert-butyldimethylsilyl chloride | 28.8 mmol, 4.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 38.3 mmol, 5.3 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 90 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-[[(1,1-dimethylethyl)dimethylsilyl]-oxy]-4-[[[(1,1-dimethylethyl) dimethylsilyl]oxy]-methyl]-N,N,N-triethylbenzenemethanaminium bromide | [Br-].CC(C)(C)[Si](OC1=C(C=CC(=C1)CO[Si](C)(C)C(C)(C)C)C[N+](CC)(CC)CC)(C)C | InChI=1S/C26H52NO2Si2.BrH/c1-14-27(15-2,16-3)20-23-18-17-22(21-28-30(10,11)25(4,5)6)19-24(23)29-31(12,13)26(7,8)9;/h17-19H,14-16,20-21H2,1-13H3;1H/q+1;/p-1
